US07423052B2
Description 54 (RS)-2-{[2-(4-Fluoro-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-piperidine-1-carboxylic acid tert butyl ester
The title compound (0.77 g) was prepared from 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (0.80 g) and 2-amino-1-(4-fluoro-phenyl)-ethanone (0.63 g) according to the method of description 20.

reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 0.80 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 2-amino-1-(4-fluoro-phenyl)-ethanone | 0.63 g | NCC(=O)C1=CC=C(C=C1)F | C8H8FNO
product | (RS)-2-{[2-(4-Fluoro-phenyl)-2-oxo-ethylcarbamoyl]-methyl}-piperidine-1-carboxylic acid tert butyl ester | 0.77 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(NCC(=O)C1=CC=C(C=C1)F)=O | C20H27FN2O4
